US06262040B1
[(1-Cyclopentyl-3-ethyl-1H-indazole-6-carbonyl)-amino]-acetic acidmethylester
134 mg (0.697 mmol, 1.0 equiv) 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride were added in one portion to a room temperature solution of 180 mg (0.697 mmol, 1.0 equiv) 1-cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid, 87.5 mg (0.697 mmol, 1.0 equiv) glycine methyl ester hydrochloride, 107 mg (0.697 mmol, 1.0 equiv) 1-hydroxybenzotriazole hydrate, and 194 μL (1.39 mmol, 2.0 equiv) triethylamine in 5 mL CH2Cl2. After 18 h, the reaction mixture was diluted with 150 mL ethyl acetate, washed 1×25 mL each 1N HCl, H2O, brine, and dried over Na2SO4. The crude product was purified on a silica gel column (40% ethyl acetate/hexanes, flash) to give 187 mg (66%) of a white waxy solid: mp 89-93° C.; Anal. calcd for C18H23N3O3; C, 65.63; H, 7.04; N, 12.76. Found: C, 65.74; H, 7.02; N, 12.74.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.697 mmol, 134 mg, 1.0 equiv | Cl.CN(CCCN=C=NCC)C
reactant | 1-cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid | 0.697 mmol, 180 mg, 1.0 equiv | C1(CCCC1)N1N=C(C2=CC=C(C=C12)C(=O)O)CC | C15H18N2O2
reactant | glycine methyl ester hydrochloride | 0.697 mmol, 87.5 mg, 1.0 equiv | Cl.COC(CN)=O
reactant | 1-hydroxybenzotriazole hydrate | 0.697 mmol, 107 mg, 1.0 equiv | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 1.39 mmol, 194 μL, 2.0 equiv | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | [(1-Cyclopentyl-3-ethyl-1H-indazole-6-carbonyl)-amino]-acetic acidmethylester | COC(CNC(=O)C1=CC=C2C(=NN(C2=C1)C1CCCC1)CC)=O | C18H23N3O3
